US06150391
Step 2: 2-Benzylamino-4-(1,3-dioxan-2-yl)butyric acid
A mixture of ethyl 2-benzylamino-4-(1,3-dioxan-2-yl)butyrate (77.5 g, 0.252 mol) and lithium hydroxide monohydrate (15.87 g, 0.378 mol) in tetrahydrofuran-methanol-water (1:3:1; 1 L) was stirred at room temperature for 3 days. The reaction mixture was concentrated in vacuo and the aqueous residue was diluted with water (200 mL), washed with diethyl ether (200 mL) and freeze dried. The residue was purified by flash chromatography (silica gel, 20-30% MeOH/CH2Cl2) to give 59.5 g (85%) of the title compound as a white solid. δH (360 MHz, d6 -DMSO/D2O) 1.29 (1H, br d, J=13.4 Hz), 1.54 (2H, m), 1.63 (2H, m), 1.79 (1H, m), 3.05 (1H, t, J=6.0 Hz), 3.64 (2H, m), 3.80 (1H, d, J=13.1 Hz), 3.91-3.94 (3H, m), 4.44 (1H, t, J=5.1 Hz), 7.32-7.39 (5H, m), m/e (ES+) 280 (M+H)+, 204 (M-C6H5 +2H)+.

reactant | ethyl 2-benzylamino-4-(1,3-dioxan-2-yl)butyrate | 0.252 mol, 77.5 g | C(C1=CC=CC=C1)NC(C(=O)OCC)CCC1OCCCO1 | C17H25NO4
reactant | lithium hydroxide monohydrate | 0.378 mol, 15.87 g | O.[OH-].[Li+]
solvent | tetrahydrofuran-methanol water | 1 L | O1C(CCC1)CO.O
product | 2-Benzylamino-4-(1,3-dioxan-2-yl)butyric acid | 59.5 g, 85% | C(C1=CC=CC=C1)NC(C(=O)O)CCC1OCCCO1 | C15H21NO4
